US05491172
Synthesis of Sulfamic acid[[2,4,6-tris(1-methylethyl)phenyl]acetyl]-2,6-bis(1-methylethyl)phenylester
A solution of 2,4,6 - triisopropylbenzyl bromide (12 g, 40.4 mmol) in dry THF (160 mL) was added to a suspension of Mg powder (1.96 g, 80.8 mmol) (4hours) in THF (20 mL) heated under reflux. 2,6-Diisopropylphenoxysulfonyl isocyanate (ROSO2NCO) (see Phos. and Sulf., 19:167 (1984) for preparation) (11.45 g, 40.4 mmol) was added neat, and after the addition was completed, the reflux was continued for another 2 hours. The reaction was stirred at room temperature for 16 hours. Saturated NH4Cl and EtOAc were added. The EtOAc layer was separated, dried over MgSO4, filtered, and evaporated to dryness. After purification by column chromatography (4:1 hexane:EtOAc), the compound was isolated as white solid (13.5 g, 67%), mp 178°-180° C.

reactant | 2,4,6 - triisopropylbenzyl bromide | 40.4 mmol, 12 g | C(C)(C)C1=C(CBr)C(=CC(=C1)C(C)C)C(C)C | C16H25Br
reactant | 2,6-Diisopropylphenoxysulfonyl isocyanate | 40.4 mmol, 11.45 g | C(C)(C)C1=C(OS(=O)(=O)N=C=O)C(=CC=C1)C(C)C | C13H17NO4S
reactant | NH4Cl | [NH4+].[Cl-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 160 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Sulfamic acid[[2,4,6-tris(1-methylethyl)phenyl]acetyl]-2,6-bis(1-methylethyl)phenylester | 13.5 g, 67% | CC(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)CC(=O)C=1C(=C(C(=CC1)C(C)C)OS(N)(=O)=O)C(C)C | C29H43NO4S
